US06660744B1
A mixture of 2-{4-[4-amino-3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]piperidino}acetic acid (0.06 g, 0.00013 mol), 2-aminoimidazole sulfate (0.022 g, 0.000163 mol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.031 g, 0.000163 mol), N,N-diisopropylethylamine (0.047 g, 0.00036 mol) and 1-hydroxy-7-azabenzotriazole (0.018 g, 0.00013 mol) in anhydrous dichloromethane (8 mL) was stirred for 18 hours at room temperature. Additional 2-aminoimidazole sulfate (0.022 g, 0.000163 mol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.031 g, 0.000163 mol), N,N-diisopropylethylamine (0.047 g, 0.00036 mol) and 1-hydroxy-7-azabenzotriazole (0.018 g, 0.00013 mol), were added and the mixture was stirred for 18 hour at room temperature. The mixture was warmed to 50° C. for 6 hours, then stirred at room temperature for 2 days. The solvent was removed under reduced pressure. The residue was purified by RP-HPLC (Hypersilprep HS C18, 8 μm, 250×21.1 mm; 5%-100% over 35 min with 0.1 M ammonium acetate, 21 mL/min) to yield N1-(1H-2-imidazolyl)-2-{4-[4-amino-3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]piperidino}acetamide (0.005 g, 0.00001 mol).

reactant | 2-{4-[4-amino-3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]piperidino}acetic acid | 0.00013 mol, 0.06 g | NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)OC2=CC=CC=C2)C2CCN(CC2)CC(=O)O | C24H24N6O3
reactant | 2-aminoimidazole sulfate | 0.000163 mol, 0.022 g | S(=O)(=O)(O)O.NC=1NC=CN1
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.000163 mol, 0.031 g | Cl.CN(CCCN=C=NCC)C
reactant | N,N-diisopropylethylamine | 0.00036 mol, 0.047 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1-hydroxy-7-azabenzotriazole | 0.00013 mol, 0.018 g | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | 2-aminoimidazole sulfate | 0.000163 mol, 0.022 g | S(=O)(=O)(O)O.NC=1NC=CN1
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.000163 mol, 0.031 g | Cl.CN(CCCN=C=NCC)C
reactant | N,N-diisopropylethylamine | 0.00036 mol, 0.047 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1-hydroxy-7-azabenzotriazole | 0.00013 mol, 0.018 g | ON1N=NC2=C1N=CC=C2 | C5H4N4O
solvent | dichloromethane | 8 mL | ClCCl | CH2Cl2
product | N1-(1H-2-imidazolyl)-2-{4-[4-amino-3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]piperidino}acetamide | 0.00001 mol, 0.005 g | N1C(=NC=C1)NC(CN1CCC(CC1)N1N=C(C=2C1=NC=NC2N)C2=CC=C(C=C2)OC2=CC=CC=C2)=O | C27H27N9O2
